US06630598B2
Production of N-methyl-N-acetyl-2-nitroaniline
1.58 g of sodium hydride (60% content) was suspended in 19.8 g of tetrahydrofuran and cooled with ice. To the obtained suspension, 19.8 g of a tetrahydrofuran solution containing 2.50 g of 2-nitroaniline was added dropwise over 1 hr, stirred for 10 minutes, allowed to stand at room temperature and stirred for 30 minutes. To the obtained mixture, 2.01 g of acetic acid anhydride was added over 1 hr at room temperature and stirred for 2 hours. To the reaction mixture, 2.49 g of dimethyl sulfate were added at room temperature and stirred for 1 hr. The reaction mixture was added to water and the separated organic layer was washed with saline then the organic layer was analyzed by high performance liquid chromatography to find the yield of the desired product was 78%.

reactant | sodium hydride | 1.58 g | [H-].[Na+]
reactant | 2-nitroaniline | 2.50 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | acetic acid anhydride | 2.01 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethyl sulfate | 2.49 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | tetrahydrofuran | 19.8 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 19.8 g | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-methyl-N-acetyl-2-nitroaniline | CN(C1=C(C=CC=C1)[N+](=O)[O-])C(C)=O | C9H10N2O3
